US04166115
A mixture of selenium dioxide (11.1 g.), dioxane (250 ml.) and water (5 ml.) was stirred for 15 minutes at 110° to 115° C. to give yellow solution. Ethyl 2-(2-mesylamino-1,3-thiazol-4-yl)acetate (26.4 g) was added thereto with stirring at the same temperature. After stirring for 1 hour, the reaction mixture was decanted with heating and cooled to precipitate yellow crystals. The crystals were collected by filtration, washed with dioxane and ether and dried to give ethyl 2-(2-mesylamino-1,3-thiazol-4-yl)glyoxylate (23.5 g.).

reactant | selenium dioxide | 11.1 g | [Se](=O)=O | O2Se
reactant | dioxane | 250 ml | O1CCOCC1 | C4H8O2
reactant | Ethyl 2-(2-mesylamino-1,3-thiazol-4-yl)acetate | 26.4 g | S(=O)(=O)(C)NC=1SC=C(N1)CC(=O)OCC | C8H12N2O4S2
solvent | water | 5 ml | O | H2O
product | ethyl 2-(2-mesylamino-1,3-thiazol-4-yl)glyoxylate | 23.5 g | S(=O)(=O)(C)NC=1SC=C(N1)C(C(=O)OCC)=O | C8H10N2O5S2
